US04150050
To a solution of 0.5g (1.4 mmoles) of (R)-(-)-methyl 2-methyl-2-[(methylsulfonyl)oxy]-4-(2,4,5-trimethyl-3,6-dioxo-1,4-cyclohexadien-1-yl)butanoate in 30 ml of methanol, at room temperature, was added a solution of 20.2 mg (0.53 mmole) of sodium borohydride in 10 ml of methanol, dropwise, with stirring. After stirring at room temperature for 50 min, 5.77 ml (7.73 mmoles) of 1.34 M methanolic sodium methoxide was added and stirring was continued for 2 hr, at room temperature. The resulting solution was acidifed with 1 N aqueous hydrochloric acid then poured into saturated brine and worked-up with ether in the usual manner. The crude, crystalline product (0.34g) was chromatographed on 20g of silica gel. Elution with 19:1 parts by volume toluene-ethyl acetate gave 0.311g (84.1%) of (S)-(+)-3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-carboxylic acid methyl ester as a colorless solid, mp 131-134°; [α]D25 -60.46° (c 3.88, CH3OH).

reactant | (R)-(-)-methyl 2-methyl-2-[(methylsulfonyl)oxy]-4-(2,4,5-trimethyl-3,6-dioxo-1,4-cyclohexadien-1-yl)butanoate | 1.4 mmoles, 0.5g | C[C@](C(=O)OC)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)OS(=O)(=O)C | C16H22O7S
reactant | sodium borohydride | 0.53 mmole, 20.2 mg | [BH4-].[Na+]
reactant | sodium methoxide | 7.73 mmoles, 1.34 M, 5.77 ml | C[O-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | brine | [Cl-].[Na+].O
solvent | ether | CCOCC | C4H10O
product | (S)-(+)-3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-carboxylic acid methyl ester | 0.311g, 84.1% | COC(=O)[C@]1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H20O4
